US07767672B2
3-isopropoxy-3-methylazetidine hydrochloride
To a slurry of 1-benzhydryl-3-isopropoxy-3-methylazetidine hydrochloride (1.23 g, 3.71 mmol) in ethanol (30 ml) was added 10% Palladium hydroxide on carbon (200 mg) and the mixture degassed three times with nitrogen and three times with hydrogen. The mixture was then stirred under a hydrogen atmosphere at room temperature for a 12 h. The reaction was degassed with nitrogen and filtered through celite and concentrated. The compound was used crude in subsequent chemistry.

reactant | 1-benzhydryl-3-isopropoxy-3-methylazetidine hydrochloride | 3.71 mmol, 1.23 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C)OC(C)C
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | 3-isopropoxy-3-methylazetidine hydrochloride | Cl.C(C)(C)OC1(CNC1)C | InChI=1S/C7H15NO.ClH/c1-6(2)9-7(3)4-8-5-7;/h6,8H,4-5H2,1-3H3;1H
